US09403798B2
1-[5-(Trifluoromethyl)thiophen-2-yl]ethanol
To a tetrahydrofuran solution (2.0 mL) of 5-(trifluoromethyl)thiophene-2-carbaldehyde (80.0 mg, 0.444 mmol), methylmagnesium bromide (533 μL, 0.444 mmol) was added at 0° C. and the resultant mixture was stirred at room temperature for 5 minutes. After completion of the reaction, acetic acid was added to the reaction solution and the resultant mixture was concentrated under reduced pressure. To the obtained residue, water was added and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was concentrated under reduced pressure to obtain a crude product of the title compound.

reactant | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
reactant | 5-(trifluoromethyl)thiophene-2-carbaldehyde | 0.444 mmol, 80.0 mg | FC(C1=CC=C(S1)C=O)(F)F | C6H3F3OS
reactant | methylmagnesium bromide | 0.444 mmol, 533 μL | C[Mg]Br
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[5-(Trifluoromethyl)thiophen-2-yl]ethanol | FC(C1=CC=C(S1)C(C)O)(F)F | C7H7F3OS
